US07553840B2
In a microwave vial, 4-chloro-6-{2,2,2-trifluoro-1-[2-(4-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-2-ylamine (30 mg, 0.075 mmol), 4-borono-L-phenylalanine (19 mg, 0.09 mmol), 1 ml of actonitrile and 0.7 ml of water were mixed. 0.3 ml of 1N aqueous sodium carbonate was added to mixture, followed by 5 mole percent of dichlorobis-(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated at 150° C. for 5 minutes with microwave irradiation. After cooling, the reaction mixture was evaporated to dryness. The residue was dissolved in 2.5 ml of methanol, and then was purified by Prep HPLC to give 15.1 mg of (S)-2-amino-3-(4-{2-amino-6-[2,2,2-trifluoro-1-(2-(4-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-4-yl}-phenyl)-propionic acid. 1H NMR (400 MHz, CD3OD) δ (ppm) 7.94 (d, J=8 Hz, 2H), 7.80 (s, 1H), 7.50 (m, 5H), 7.25 (m, 2H), 7.03 (s, 1H), 6.94 (s, 1H), 4.31 (t, J=5.6, 1H), 3.48 (m, 1H), 3.26 (m, 1H), 1.98 (s, 3H).

reactant | 4-chloro-6-{2,2,2-trifluoro-1-[2-(4-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-2-ylamine | 0.075 mmol, 30 mg | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C1=CSC=C1C)N | C17H13ClF3N3OS
reactant | 4-borono-L-phenylalanine | 0.09 mmol, 19 mg | B(O)(O)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H12BNO4
reactant | actonitrile | 1 ml | C(C)#N | C2H3N
reactant | sodium carbonate | 1N, 0.3 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis-(triphenylphosphine)-palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.7 ml | O | H2O
product | (S)-2-amino-3-(4-{2-amino-6-[2,2,2-trifluoro-1-(2-(4-methyl-thiophen-3-yl)-phenyl]-ethoxy}-pyrimidin-4-yl}-phenyl)-propionic acid | 15.1 mg | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C1=CSC=C1C)N | C26H23F3N4O3S
